US05240976
N, N, N',N'-Tetraphenyl-2-butene-1,4-diamine
A vigorously stirred mixture of diphenylamine (150 g, 0.9 mol), 1,4-dibromobut-2-ene (104 g, 0.49 mol), potassium iodide (8 g, 0.05 mol), tetrabutylammonium bromide (7 g, 0.025 mol), sodium hydroxide (43 g, 1.06 mol) and 150 ml of water is warmed to 60° C. for five hours. The mixture is allowed to cool to room temperature. The solids formed are collected and washed with water. The residue is recrystallized from ethanol to give 69 grams (36% yield) of the title compound as a tan solid melting at 105°-107° C.

reactant | diphenylamine | 0.9 mol, 150 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 1,4-dibromobut-2-ene | 0.49 mol, 104 g | BrCC=CCBr | C4H6Br2
reactant | potassium iodide | 0.05 mol, 8 g | [I-].[K+]
reactant | sodium hydroxide | 1.06 mol, 43 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.025 mol, 7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 150 ml | O | H2O
product | N, N, N',N'-Tetraphenyl-2-butene-1,4-diamine | 69 grams, 36% yield | C1(=CC=CC=C1)N(CC=CCN(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H26N2
